US08802696B2
(S)-7-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinoline mono-HCl salt (20 mg) was dissolved in isopropanol (10 mL) under heating in a vial. Distilled water (2 mL) was then added to the above clear solution. The resulting solution was capped and placed at room temperature. Long needle crystals of (S)-7-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinoline mono-HCl monoisopropanolate monohydrate salt were obtained after slow evaporation in air within days. The needle-like crystals were separated from mother liquor by filtration and the wet cake was dried in an oven for 16 hours under the condition of 45° C. and 100 mmHg.

reactant | (S)-7-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinoline mono-HCl salt | 20 mg | Cl.N=1C=NN2C1C=CC(=C2)C2=CC=C1[C@@H](CNCC1=C2)C2=CC(=C(C=C2)Cl)Cl
reactant | water | 2 mL | O | H2O
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | (S)-7-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinoline mono-HCl monoisopropanolate monohydrate | O.C(C)(C)[O-].Cl.N=1C=NN2C1C=CC(=C2)C2=CC=C1[C@@H](CNCC1=C2)C2=CC(=C(C=C2)Cl)Cl | InChI=1S/C21H16Cl2N4.C3H7O.ClH.H2O/c22-19-5-2-14(8-20(19)23)18-10-24-9-16-7-13(1-4-17(16)18)15-3-6-21-25-12-26-27(21)11-15;1-3(2)4;;/h1-8,11-12,18,24H,9-10H2;3H,1-2H3;1H;1H2/q;-1;;/t18-;;;/m0.../s1
